* Netlist generated by ASDL for backend `sim.xyce`

* GF180MCU Model Card1:
.include $PDK_PATH/xyce/design.xyce
.lib $PDK_PATH/xyce/sm141064.xyce typical
XMN1 d g s b nfet_03v3 L=0.5u W=2*5u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
R_R1 g s 1k
V_vd d GND DC 1
V_vg g GND DC 1
V_vs s GND DC 0
V_vb b GND DC 0
.DC V_vg 0 3.3 0.01

.global GND
.end
